US06720320B2
1-(hydroxyimino)-1-(7-methoxybenzo(b)furan-2-yl)methylamine
By the reactions in the same manner as in Starting Material Synthesis Example 28 using 7-methoxybenzo(b)furan-2-carbonitrile (3.0 g), hydroxylamine hydrochloride (1.4 g) and sodium hydrogencarbonate (2.1 g), the title compound (3.3 g) was obtained as brown crystals.

reactant | 7-methoxybenzo(b)furan-2-carbonitrile | 3.0 g | COC1=CC=CC2=C1OC(=C2)C#N | C10H7NO2
reactant | hydroxylamine hydrochloride | 1.4 g | Cl.NO
reactant | sodium hydrogencarbonate | 2.1 g | C(O)([O-])=O.[Na+]
product | 1-(hydroxyimino)-1-(7-methoxybenzo(b)furan-2-yl)methylamine | 3.3 g | ON=C(C1=CC2=C(O1)C(=CC=C2)OC)N | C10H10N2O3
